US04235781
A mixture of 4,8-dimethyl-7-(2'-chloroallyloxy)coumarin (500 mg., 1.89 m mole) and N,N-diethylaniline (5.0 ml) was protected by an "Aquasorb" (TM), brand of phosphorous pentoxide drying tube, while being heated under reflux for twenty-four hours at an oil bath temperature of 220°-225° C. Treatment of the reaction mixture as described in part 1-B gave some black, ether-insoluble material which was discarded. The desired 4,5',8-trimethylpsoralene was obtained as a tan solid (154 mg., 41.6% yield), which was recrystallized from 95% ethanol to obtain light tan needles (53 mg., 14% yield) of m.p. 233° C. (rptd: m.p. 234° C.). Its infrared spectrum was identical to that of a commercial sample.

reactant | 4,8-dimethyl-7-(2'-chloroallyloxy)coumarin | 500 mg | CC1=CC(OC2=C(C(=CC=C12)OCC(=C)Cl)C)=O | C14H13ClO3
reactant | N,N-diethylaniline | 5.0 ml | C(C)N(C1=CC=CC=C1)CC | C10H15N
solvent | ether | CCOCC | C4H10O
product | 4,5',8-trimethylpsoralene | 41.6% yield | CC1=CC(=O)OC2=C1C=C3C=C(OC3=C2C)C | C14H12O3
